US05859007
1-Benzyl-1H-indazole-3-carboxylic acid benzyl ester
To a stirring solution of 750 mg (4.62 mmol) of 1H-Indazole-3-carboxylic acid (Snyder, H. R.; Thompson, C. B.; Hinman, R. L. J. Am. Chem. Soc. 1952, 74, 2009) in 20 mL of DMF is added 1.92 g (13.86 mmol, 3.0 equiv) of K2CO3, followed by 1.43 mL of benzyl bromide. The reaction mixture is stirred 15 min at RT then heated at 60° C. for 16 h. The reaction is cooled to RT, poured into 100 mL 1N HCl, and extracted with EtOAc (2×100 mL). The organic layers are washed with H2O (2×100 mL), dried (MgSO4), and the solvent removed in vacuo. Purification of the crude material by silica gel flash column chromatography using a gradient elution of hexane/EtOAc 20/1 to 2/1 afforded 735 mg of the title compound as a yellow oil which later solidified: 1H NMR (CDCl3, 300 MHz) δ8.20 (d, 1H), 7.55 (d, 2H), 7.40-7.18 (m, 11H), 5.70 (s, 2H), 5.57 (s, 2H); Rf =0.15 in hexane/EtOAc 10/1.

reactant | 1H-Indazole-3-carboxylic acid | 4.62 mmol, 750 mg | N1N=C(C2=CC=CC=C12)C(=O)O | C8H6N2O2
reactant | K2CO3 | 13.86 mmol, 1.92 g, 3.0 equiv | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 1.43 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | HCl | 1N, 100 mL | Cl | ClH
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Benzyl-1H-indazole-3-carboxylic acid benzyl ester | 735 mg | C(C1=CC=CC=C1)OC(=O)C1=NN(C2=CC=CC=C12)CC1=CC=CC=C1 | C22H18N2O2
